US06774134B2
A solution of of 2-amino-N-cyclopropyl-benzenesulfonamide (6.9 g, 32.5 mmol) in CH2Cl2 (50 ml) was treated with CDI (6.5 g, 40 mmol) and stirred for 12 h at reflux. The solution was a washed with HCl (1N), dried over MgSO4 and concentrated to give 6.5 g (84%) of 2-cyclopropyl-1,1-dioxo-1,4-dihydro-2H-1λ6-benzo[1,2,4]thiadiazin-3-one as a brown solid.

reactant | 2-amino-N-cyclopropyl-benzenesulfonamide | 32.5 mmol, 6.9 g | NC1=C(C=CC=C1)S(=O)(=O)NC1CC1 | C9H12N2O2S
reactant | CDI | 40 mmol, 6.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-cyclopropyl-1,1-dioxo-1,4-dihydro-2H-1λ6-benzo[1,2,4]thiadiazin-3-one | 6.5 g, 84% | C1(CC1)N1S(C2=C(NC1=O)C=CC=C2)(=O)=O | C10H10N2O3S
